US06660744B1
To a −78° C. mixture of 3-benzyloxobromobenzene (0.590 g, 2.24 mmol, 1 equiv) in THF (10 mL) was added n-butyllithium (1.6 M in hexanes, 2.9 mL, 4.7 mmol, 2.1 equiv). The reaction mixture was stirred for 45 min and then triisopropylborate (0.77 mL, 3.4 mmol, 1.5 equiv) was added. The reaction mixture was stirred at −78° C. for 30 min and was allowed to warm to ambient temperature over 2 h. Hydrochloric acid (2.5M, 10 mL) was added and the mixture was stirred vigorously for 16 h. The organic portion was separated and the aqueous layer was extracted with two portions of Et2O (50 mL each). The combined organic extracts were dried over MgSO4, filtered, and concentrated to afford a brown oil. The residue was triturated from heptane (100 mL) and the precipitate was collected by filtration to afford 3-(benzyloxy)phenylboronic acid as a lavendar solid (0.111 g, 0.486 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 8.00 (2H, bs), 7.02-7.46 (9H, m), and 5.09 (2H, s).

reactant | 3-benzyloxobromobenzene | 2.24 mmol, 0.590 g, 1 equiv | C(C1=CC=CC=C1)C=1C(C(C=CC1)Br)=O | C13H11BrO
reactant | n-butyllithium | 4.7 mmol, 1.6 M, 2.9 mL, 2.1 equiv | C(CCC)[Li]
reactant | triisopropylborate | 3.4 mmol, 0.77 mL, 1.5 equiv | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 2.5M, 10 mL | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(benzyloxy)phenylboronic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
